US07547691B2
Racemic 2-[5-Methyl-2-(3-piperidin-3-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide
A stirred mixture of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (0.50 g, 1.5 mmol), racemic 3-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.88 g, 3.6 mmol) and diisopropylethylamine (0.47 g, 3.6 mmol) in 1,4-dioxane (7 mL) is heated at 90° C. under a nitrogen atmosphere for 48 hours. After concentration and subsequent chromatography on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 1-10%, the intermediate is obtained as a solid. The solid is suspended in dichloromethane (3 mL), followed by the successive addition of triethylsilane (0.50 mL) and TFA (3 mL), the resultant yellow solution is stirred for 16 hours. After concentration a wet solid is obtained. It is treated with 2 N LiOH, with sonication, until pH reaches 12. The mixture is filtered and the solid is dried before it is subjected to chromatography on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 10-20%, to give the title compound as a yellow solid (160 mg, 25% yield). ES+(m/z) 450 [M+H].

reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.5 mmol, 0.50 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C17H14ClN3OS
reactant | racemic 3-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.6 mmol, 0.88 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CCCN | C13H26N2O2
reactant | diisopropylethylamine | 3.6 mmol, 0.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triethylsilane | 0.50 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | LiOH | 2 N | [Li+].[OH-]
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | Racemic 2-[5-Methyl-2-(3-piperidin-3-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 160 mg, 25% yield | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CNCCC2 | C25H31N5OS
